US06921763B2
Oxalyl chloride (0.07 mL, 0.79 mmol) was added into a solution of indole-3-carboxylic acid (0.12 g, 0.72 mmol) in dichloromethane (4 mL) and tetrahydrofuran (3 mL) at 0° C. N,N-dimethylforamide (3 drops from 0.1 mL syringe) was added and the mixture was stirred at 0° C. for 10 minutes and at ambient temperature for 20 minutes. The solvents and excess of reagents were evaporated under reduced pressure. The residue was taken into dichloromethane (2 mL) and the resulting solution (1.5 mL) was added into a solution of 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.09 g, 0.36 mmol) and pyridine (1 mL) in dichloromethane (2 mL). The mixture was stirred at ambient temperature overnight. The acid chloride solution in dichloromethane (0.3 mL) was added in and the mixture was stirred overnight. Water (a drop) was added in. The volatile components were evaporated under reduced pressure. The residue was partitioned between water and ethyl acetate. The aqueous layer was separated and extracted with ethyl acetate. The organic extracts were combined and washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The mixture was filtered and the solvent of the filtrate was evaporated to yield the crude which was purified by flash column chromatography on silica using n-heptane:ethyl acetate (2/1) as a mobile phase to yield N3-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-3-indolecarboxamide (0.11 g, 0.28 mmol) as a white solid: 1H NMR (CDCl3, 400 MHz) δ 8.65 (m, 3H), 8.13 (d, 1H), 7.95 (s, 1H), 7.50 (m, 2H), 7.33(m, 3H), 4.02 (s, 3H), 1.36 (s, 12H); MS: MH+ 393.

reactant | Oxalyl chloride | 0.79 mmol, 0.07 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | indole-3-carboxylic acid | 0.72 mmol, 0.12 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.36 mmol, 0.09 g | COC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylforamide | 3 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | N3-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-3-indolecarboxamide | 0.28 mmol, 0.11 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)C1=CNC2=CC=CC=C12 | C22H25BN2O4
